US05616586
7) 9-Bromo-5-methoxycarbonylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
To a mixture of 20% aqueous titanium trichloride (540 g, 0.7 mol), water (500 mL), and acetone (500 mL) was added dropwise 6-bromo-2-methoxycarbonylmethyl-8-nitro-N-ethoxalyltetrahydroquinoline (46 g, obtained above) in acetone (500 mL) over 1 h at 0° C. The mixture was stirred for 3 h at 0° C., diluted with water (1 L) and extracted with dichloromethane (1 L and 500 mL). The organic layers were washed successively with 1N hydrochloric acid, water, and brine, dried over magnesium sulfate, and concentrated. The residual solid was rinsed with a 1:1 mixture of hexane and toluene (400 mL) to give 17.4 g of the title compound (49% from 2-methoxycarbonylmethyltetrahydroquinoline hydrochloride): mp 185°~187° C.; 1H NMR (270 MHz, DMSO-d6) δ12.04 (bs, 1H), 7.20 (d, 1H, J=2 Hz), 7.15 (d, 1H, J=2 Hz), 5.04~5.13 (m, 1H), 3.62 (s, 3H), 2.94 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.78 (dm, 1H, J=17.1 Hz), 2.63 (dd, 1H, J =18, 7.2 Hz), 2.57 (dd, 1H, J=18, 3.6 Hz), 2.09 (dm, 1H, J=13.5 Hz), 1.80~1.95 (m, 1H).

reactant | 6-bromo-2-methoxycarbonylmethyl-8-nitro-N-ethoxalyltetrahydroquinoline | 46 g | BrC=1CC2CCC(N(C2=C(C1)[N+](=O)[O-])C(=O)C(=O)OCC)CC(=O)OC | C16H19BrN2O7
solvent | acetone | 500 mL | CC(=O)C | C3H6O
solvent | water | 1 L | O | H2O
catalyst | titanium trichloride | 0.7 mol, 540 g | [Cl-].[Cl-].[Cl-].[Ti+3]
solvent | acetone | 500 mL | CC(=O)C | C3H6O
solvent | water | 500 mL | O | H2O
product | 9-Bromo-5-methoxycarbonylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 17.4 g, 49% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)OC | C14H13BrN2O4
